US06982348B2
1) (1RS,2SR)-2-amino-3-[3-(1,2-difluoro-2-methylpropyl)phenyl]-1-(4-fluorophenyl)propan-1-ol
A mixture of tert-butyl N-[(1RS,2SR)-1-[3-(1,2-difluoro-2-methylpropyl)benzyl]-2-(4-fluorophenyl)-2-hydroxyethyl]carbamate (2.139 g, 4.889 mmol) and trifluoroacetic acid (10 ml) was stirred at room temperature for 1 hr. The reaction solution was evaporated under reduced pressure, diluted with water, alkalified with potassium carbonate, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and passed through APS-silica gel. The solvent was evaporated under reduced pressure to give the objective substance.

reactant | tert-butyl N-[(1RS,2SR)-1-[3-(1,2-difluoro-2-methylpropyl)benzyl]-2-(4-fluorophenyl)-2-hydroxyethyl]carbamate | 4.889 mmol, 2.139 g | FC(C(C)(C)F)C=1C=C(CC(C(O)C2=CC=C(C=C2)F)NC(OC(C)(C)C)=O)C=CC1 | C24H30F3NO3
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1RS,2SR)-2-amino-3-[3-(1,2-difluoro-2-methylpropyl)phenyl]-1-(4-fluorophenyl)propan-1-ol | NC(C(O)C1=CC=C(C=C1)F)CC1=CC(=CC=C1)C(C(C)(C)F)F | C19H22F3NO
